US05583123
To a stirred solution of 3-(naphthalen-1-yl)propanal (2.3 g, 12.5 mmol) in DMF (6 mL) under nitrogen is added dibenzyl phosphite (3.3 g, 12.5 mmol), followed by potassium fluoride (0.94 g, 16.2 mmol). After 2 hours, the stirred suspension is diluted with ethyl acetate (60 mL) and washed with water (3×20 mL). The organic layer is dried over anhydrous MgSO4, filtered and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel, eluting with a gradient of ethyl acetate in hexane (30% to 40% ). Concentration of the pure fractions in vacuo yields [1-hydroxy-3-(naphthalen-1-yl)-propyl]phosphonic acid dibenzyl ester as an oil which solidifies on standing.

reactant | 3-(naphthalen-1-yl)propanal | 12.5 mmol, 2.3 g | C1(=CC=CC2=CC=CC=C12)CCC=O | C13H12O
reactant | dibenzyl phosphite | 12.5 mmol, 3.3 g | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
reactant | potassium fluoride | 16.2 mmol, 0.94 g | [F-].[K+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | [1-hydroxy-3-(naphthalen-1-yl)-propyl]phosphonic acid dibenzyl ester | C(C1=CC=CC=C1)OP(OCC1=CC=CC=C1)(=O)C(CCC1=CC=CC2=CC=CC=C12)O | C27H27O4P
